US03932650
trans-1,2,3,4,4a,8,9,14a-Octahydro-3-methylpyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine
A solution of 4.76 g. of 1,2,3,4,8,9-hexahydro-3-methylpyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine (which can be made according to the teachings of U.S. Pat. No. 3,457,271, Column 4, lines 27-54) in 50 ml. of tetrahydrofuran was added dropwise to a stirred 1N-solution of boron hydride in tetrahydrofuran (42 ml.) under a nitrogen blanket. After the addition was complete, the mixture was refluxed under nitrogen for five hours, then cooled in ice and quenched with 20 ml. of 6N hydrochloric acid. The mixture was distilled, the removed liquid being from time to time replaced by addition of dioxane. The mixture was again refluxed at 91°C. for one hour with additional 6N hydrochloric acid, then cooled to 70°C., made basic with sodium hydroxide, and evaporated in vacuum. The semisolid residue was treated with water and chloroform, and the chloroform layer was further worked up to yield 1.50 g. of a solid product, m.p. 128°-131°C. The mother liquors yielded an additional amount of material, m.p. 129.5°-130.5°C. Crystallization from ether raised the melting point to 132°-134°C.; UV spectrum: λmaxCH3OH 279.5 mμ (logε 4.13).

reactant | 1,2,3,4,8,9-hexahydro-3-methylpyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine | CC1CCC2=C(C=CC=3C=4N2C2=C(C4CCC3)C=NC=C2)C1 | C20H20N2
reactant | boron hydride | B | BH3
solvent | tetrahydrofuran | 42 ml | O1CCCC1 | C4H8O
product | trans-1,2,3,4,4a,8,9,14a-Octahydro-3-methylpyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine | CC1CCC2C(/C=C/C=3C=4N2C2=C(C4CCC3)C=NC=C2)C1 | C20H22N2
